US05869501
7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile obtained in Reference Example 2 (150 mg) was dissolved in 4 ml of acetonitrile, 710 mg of ethyl thioisocyanate was added to the solution, and the mixture was heated under reflux for 4 days. The reaction solution was evaporated, and the resulting residue was purified by silica gel column chromatography using hexane:ethyl acetate (7:3) as the eluent to give 171 mg of 1-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-1-[(7-cyano-2-naphthyl)methyl]-3-ethylthiourea.

reactant | 7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | ethyl thioisocyanate | 710 mg | C(C)SN=C=O | C3H5NOS
reactant | acetonitrile | 4 ml | C(C)#N | C2H3N
product | 1-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-1-[(7-cyano-2-naphthyl)methyl]-3-ethylthiourea | 171 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(=S)NCC)CC1=CC2=CC(=CC=C2C=C1)C#N | C31H36N4O3S
